* Library of Ixys IGBT and Power MOSFET models

* $Revision:   1.0  $
* $Author:   HIRASUNA  $
* $Date:   10 Jul 2001 13:26:32  $
*
*------------------------------------------------------------------
*P-Spice models for IXYS
*
*This text file contains Spice models for the following parts:
*MOSFETS: IXFH32N50; IXFK55N50; IXFK120N20;IXKF170N10; IXFH12N100Q
*IGBTs: IXGH12N100; IXGH24N60B; IXGH30N30; IXGH30N60B; IXGH50N60B
*
.SUBCKT ixgh30n30/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 19, 97
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=4.9106 KP=2.05978 LAMBDA=2.11941 CGSO=6.82044e-06
RD 7 9 0.000518182
RS 4 8 0.000731907
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1.28787e-17 BF=29.0178 NF=0.85 VAF=206.57
+IKF=533.362 ISE=1.39018e-12 NE=4 BR=0.245356
+NR=0.75 VAR=98.9514 IKR=999.781 ISC=1e-17
+NC=2.01345 RB=0.01 IRB=998.878 RBM=0.01
+RE=1e-08 RC=0.00683662 XTB=5.61439e-17 XTI=3.36485
+EG=0.5 CJC=5.58413e-10 VJC=1.32437 MJC=0.9
+CJE=1.11683e-08 VJE=0.4 MJE=0.9 TF=5.036e-10
RDS 7 4 1e8
RER 4 3 0.0955574
RG 6 2 6.173
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.27647e-09 VJ=0.4 M=0.9 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1.968e-08
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS 
*$
.SUBCKT ixfh32n50/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep 25, 97
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.85057 LAMBDA=0.163442 KP=90.2485
+CGSO=2.96386e-05 CGDO=7.54039e-07
RS 8 3 0.0314821
D1 3 1 MD
.MODEL MD D IS=7.55279e-08 RS=0.00373699 N=1.5 BV=800
+IBV=10 EG=1 XTI=2.99405 TT=9.85256e-05
+CJO=2.98431e-09 VJ=0.5 M=0.553798 FC=0.5
RDS 3 1 1e+07
RD 9 1 0.109923
RG 2 7 1.10272
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.56186e-09 VJ=0.567405 M=0.890821 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.528471 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.81309e-08
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.528471
.ENDS 
*$
.SUBCKT IXFK120N20/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul  1, 97
* MODEL FORMAT: PSpice 
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.5635 LAMBDA=0.0004945 KP=49.8142
+CGSO=4.63895e-05 CGDO=2.14772e-06
RS 8 3 0.00183422
D1 3 1 MD
.MODEL MD D IS=6.58471e-07 RS=0.00302042 N=1.5 BV=200
+IBV=10 EG=1 XTI=1 TT=0.0001
+CJO=4.05076e-09 VJ=0.5 M=0.3 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0107335
RG 2 7 6
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=9.05649e-09 VJ=1.75879 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 9.05649e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS 
*$
.SUBCKT ixfk170n10/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep 25, 97
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.42984 LAMBDA=0.00210639 KP=40.8337
+CGSO=8.45256e-05 CGDO=4.07621e-06
RS 8 3 0.00293223
D1 3 1 MD
.MODEL MD D IS=4.08763e-07 RS=0.00259188 N=1.5 BV=200
+IBV=10 EG=1 XTI=1 TT=9.64248e-05
+CJO=5.84568e-09 VJ=2.93246 M=0.577207 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.000921415
RG 2 7 1.97504
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.10126e-08 VJ=0.500199 M=0.876672 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.4691e-08
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS 
*$
.SUBCKT ixfk55n50/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep 25, 97
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.54972 LAMBDA=0.00525773 KP=22.154
+CGSO=4.72522e-05 CGDO=1.06731e-06
RS 8 3 0.00237717
D1 3 1 MD
.MODEL MD D IS=7.79087e-08 RS=0.00360213 N=1.5 BV=600
+IBV=10 EG=1.2 XTI=4 TT=0.0001
+CJO=2.67379e-09 VJ=1.66114 M=0.710401 FC=0.5
RDS 3 1 2e+06
RD 9 1 0.0695827
RG 2 7 2.4098
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=5.3234e-09 VJ=0.5 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.68191e-08
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS 
*$
.SUBCKT ixfh12n100q/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 22, 98
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=4.54 LAMBDA=0.00633779 KP=7.09
+CGSO=2.17164e-05 CGDO=3.39758e-07
RS 8 3 0.0001
D1 3 1 MD
.MODEL MD D IS=5.2e-09 RS=0.00580776 N=1.275 BV=1000
+IBV=10 EG=1.061 XTI=2.999 TT=3.28994e-05
+CJO=2.95707e-09 VJ=1.57759 M=0.9 FC=0.1
RDS 3 1 1e+06
RD 9 1 0.95
RG 2 7 0.4
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.05889e-09 VJ=0.5 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.05889e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS 
*$
.SUBCKT ixgh12n100/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 11, 97
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=3.48095 KP=2.1885 LAMBDA=0 CGSO=7.10858e-06
RD 7 9 1e-06
RS 4 8 0.066762
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=59.4436 NF=1.5 VAF=922.354
+IKF=1537.51 ISE=1.71293e-09 NE=2.91892 BR=0.999984
+NR=1.00267 VAR=2.31395 IKR=1000 ISC=1.00001e-11
+NC=2.00029 RB=0.84383 IRB=0.0255645 RBM=1e-05
+RE=1e-08 RC=1e-08 XTB=0 XTI=0
+EG=0.5 CJC=4.58196e-10 VJC=0.4 MJC=0.598005
+CJE=9.16392e-09 VJE=0.4 MJE=0.9 TF=2.10236e-07
RDS 7 4 1e8
RER 4 3 0.0441607
RG 6 2 286.844
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=6.19904e-10 VJ=0.4 M=0.72797 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 6.19904e-10
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS 
*$
.SUBCKT ixgh24n60b/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 25, 97
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=3.86847 KP=0.714587 LAMBDA=0.005025 CGSO=1.46e-05
RD 7 9 0.000999977
RS 4 8 0.00100186
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1.00312e-16 BF=10.69 NF=0.866557 VAF=101.9
+IKF=949.4 ISE=9.99098e-12 NE=2.00892 BR=1
+NR=0.9 VAR=999.9 IKR=1000 ISC=1e-11
+NC=1.99997 RB=0.0995358 IRB=1001.77 RBM=0.0100023
+RE=0.00100039 RC=0.00100069 XTB=0.0841223 XTI=3.00002
+EG=1.17061 CJC=1.87655e-10 VJC=0.994031 MJC=0.2
+CJE=3.7531e-09 VJE=0.727721 MJE=0.37218 TF=2.17834e-11
RDS 7 4 1e8
RER 4 3 0.0121145
RG 6 2 3.18406
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=7.66861e-11 VJ=1.02204 M=0.2 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 6.26071e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS 
*$
.SUBCKT ixgh30n60b/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 25, 97
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=4.34052 KP=1.25426 LAMBDA=0.0114738 CGSO=2.5489e-05
RD 7 9 0.00097808
RS 4 8 0.00101325
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=5.10938e-17 BF=21.8048 NF=0.85 VAF=121.582
+IKF=318.605 ISE=1.0033e-11 NE=1.96534 BR=1.51217
+NR=0.75 VAR=102.831 IKR=999.813 ISC=9.99937e-12
+NC=1.99954 RB=0.00872075 IRB=999.92 RBM=0.00872075
+RE=0.000594645 RC=0.00100917 XTB=0.00683155 XTI=2.99616
+EG=0.97593 CJC=1.37445e-09 VJC=0.4 MJC=0.477341
+CJE=2.7489e-08 VJE=0.4 MJE=0.9 TF=2.129e-12
RDS 7 4 1e8
RER 4 3 0.0133472
RG 6 2 18
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.28828e-09 VJ=0.4 M=0.769982 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 2e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS 
*$
.SUBCKT ixgh50n60b/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 26, 97
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=4.25776 KP=0.818515 LAMBDA=0 CGSO=3.79152e-05
RD 7 9 1e-06
RS 4 8 0.000615065
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=5.74653e-17 BF=29.9789 NF=1.25813 VAF=963.768
+IKF=555.083 ISE=6.49552e-12 NE=4 BR=0.999955
+NR=1.18801 VAR=115.294 IKR=1000.07 ISC=1.00024e-11
+NC=1.99017 RB=0.0001 IRB=994.03 RBM=1e-05
+RE=1e-08 RC=0.00101777 XTB=0 XTI=3.00367
+EG=1.2 CJC=1.31724e-09 VJC=0.4 MJC=0.452403
+CJE=2.63448e-08 VJE=0.4 MJE=0.9 TF=2.36057e-10
RDS 7 4 1e8
RER 4 3 0.00420451
RG 6 2 15.57
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.93059e-09 VJ=0.4 M=0.792529 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1.04812e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS 
*$
.SUBCKT ixsn35n120au1/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Apr 13, 99
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=6.5822 KP=3.72754 LAMBDA=0.0121019 CGSO=3.8737e-05
RD 7 9 0.00164203
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=5.54854 NF=1.46334 VAF=335.694
+IKF=62.9545 ISE=9.31572e-12 NE=2.252 BR=0.1
+NR=0.75 VAR=71.0402 IKR=984.089 ISC=1.00137e-11
+NC=2.10478 RB=0.266056 IRB=0.788608 RBM=1e-05
+RE=2.13861e-07 RC=0.00136226 XTB=0 XTI=0.38824
+EG=1.03716 CJC=4.81895e-10 VJC=0.973635 MJC=0.2
+CJE=4.81895e-09 VJE=1.23187 MJE=0.2 TF=1e-09
RDS 7 4 1e8
RER 4 3 0.0005
RG 6 2 20
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.25971e-10 VJ=0.646718 M=0.2 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 7.39373e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
DDZ 4 1 DD1
.MODEL DD1 d
+IS=4.37288e-17 RS=0.00597764 N=2 EG=1.5
+XTI=4 BV=10000 IBV=0.0001 CJO=1.24525e-11
+VJ=1.06182 M=0.329168 FC=0.5 TT=1.31359e-07
+KF=0 AF=1
.ENDS 
*$
.SUBCKT ixgh24n60cd/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Aug 23, 99
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=5.44183 KP=0.363165 LAMBDA=0.001912 CGSO=1.28021e-05
RD 7 9 9.99998e-07
RS 4 8 0.00349045
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=3.59692e-16 BF=45.1285 NF=1.42817 VAF=653.883
+IKF=226.507 ISE=9.65576e-12 NE=2.65963 BR=1.23844
+NR=0.75 VAR=107.551 IKR=1000.35 ISC=1.00174e-11
+NC=2.00244 RB=0.0001 IRB=986.368 RBM=9.99422e-05
+RE=1e-08 RC=0.00768285 XTB=2.6598 XTI=2.99289
+EG=0.803056 CJC=7.44197e-10 VJC=1.06966 MJC=0.719487
+CJE=1.48839e-08 VJE=0.4 MJE=0.200005 TF=3.15688e-10
RDS 7 4 1e8
RER 4 3 0.016853
RG 6 2 5.6
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=7.97895e-10 VJ=0.663835 M=0.866139 FC=0
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 2.78378e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
DCE 3 1 Dixgh24n60cd-d
.MODEL Dixgh24n60cd-d d
+IS=5.51094e-15 RS=0.0184419 N=2 EG=3.9395
+XTI=0.5 BV=1000 IBV=0.0001 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1.398e-08
+KF=0 AF=1
.ENDS 
*$
.SUBCKT ixgh32n60cd/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Aug 24, 99
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=4.54897 KP=2.10636 LAMBDA=0.001 CGSO=2.53535e-05
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=13.3344 NF=1.76897 VAF=662.127
+IKF=63.0067 ISE=1.45404e-11 NE=2.92744 BR=1.55005
+NR=0.75 VAR=117.586 IKR=1000.02 ISC=9.99465e-12
+NC=1.97843 RB=0.0001 IRB=974.58 RBM=1e-05
+RE=1e-08 RC=0.0011128 XTB=0.00656128 XTI=3.21252
+EG=1.2 CJC=1.78202e-09 VJC=0.4 MJC=0.625262
+CJE=3.56403e-08 VJE=0.4 MJE=0.710338 TF=1.54793e-11
RDS 7 4 1e8
RER 4 3 0.0005
RG 6 2 7.6
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=2.08383e-09 VJ=0.4 M=0.9 FC=0.300809
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=04
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 5.149e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
DCE 3 1 Dixgh32n60cd-d
.MODEL Dixgh32n60cd-d d
+IS=5.51094e-15 RS=0.0184419 N=2 EG=3.9395
+XTI=0.5 BV=1000 IBV=0.0001 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1.398e-08
+KF=0 AF=1
.ENDS 
*$
.SUBCKT ixbh40n160/IXS 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Jan  8, 99
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=6.58471 KP=0.0971725 LAMBDA=3.534e-16 CGSO=3.49491e-05
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=646.284 NF=1.40831 VAF=69.2444
+IKF=42.9963 ISE=1.09156e-07 NE=4 BR=0.801494
+NR=1.49998 VAR=2.36873 IKR=999.885 ISC=1.11209e-11
+NC=3.96345 RB=1000 IRB=1e-05 RBM=1e-05
+RE=0.0878051 RC=1e-08 XTB=1.41792 XTI=0
+EG=0.5 CJC=3.5991e-10 VJC=1.42026 MJC=0.203853
+CJE=7.19819e-09 VJE=0.757661 MJE=0.315127 TF=1.26153e-10
RDS 7 4 1e8
RER 4 3 0.0005
RG 6 2 5.36485
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=3.26441e-11 VJ=88.9402 M=0.308348 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 5.14631e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
DDZ 4 1 DD1
.MODEL DD1 d
+IS=2.05122e-15 RS=0.0273905 N=2 EG=1.3
+XTI=4 BV=1600 IBV=0.0001 CJO=4.49011e-10
+VJ=0.501506 M=0.466618 FC=0.5 TT=3.51389e-07
+KF=0 AF=1
.ENDS 
*$
